US07049312B1
Synthesis of 1-Hydroxyethyloxymethyl-7-azaindole-3-carboxaldehyde
A solution of sodium hydroxide (1.33 g, 33 mmol) in water (35 ml) was added to a solution of 1-benzoyloxyethyloxymethyl-7-azaindole-3-carboxaldehyde (5.4 g, 16 mmol) in methanol (45 ml). The mixture was heated at 60° C. for 1 h, then the solvent was concentrated to half the original volume. Water was added, and the product was extracted with dichloromethane, dried over magnesium sulfate, filtered then evaporated to dryness. The product was used without further purification. Yield 2.7 g (74%)

reactant | sodium hydroxide | 33 mmol, 1.33 g | [OH-].[Na+]
reactant | 1-benzoyloxyethyloxymethyl-7-azaindole-3-carboxaldehyde | 16 mmol, 5.4 g | C(C1=CC=CC=C1)(=O)OC(C)OCC=1NC2=NC=CC=C2C1C=O | C18H16N2O4
solvent | water | 35 ml | O | H2O
solvent | methanol | 45 ml | CO | CH4O
product | 1-Hydroxyethyloxymethyl-7-azaindole-3-carboxaldehyde | OC(C)OCC=1NC2=NC=CC=C2C1C=O | C11H12N2O3
